US06583144B2
Concentrated sulfuric acid (12 ml) was added to a solution of 2-methyl-5-nitrobenzoic acid (10.87 g) in ethanol (60 ml). The mixture was heated under reflux overnight. The reaction solution was concentrated under the reduced pressure. Water was then added to the residue. The mixture was extracted with diethyl ether. The extract was washed with water and saturated saline, and then dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=4:1) to give ethyl 2-methyl-5-nitrobenzoate (11.86 g).

reactant | sulfuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
reactant | 2-methyl-5-nitrobenzoic acid | 10.87 g | CC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C8H7NO4
reactant | ethanol | 60 ml | C(C)O | C2H6O
product | ethyl 2-methyl-5-nitrobenzoate | 11.86 g | CC1=C(C(=O)OCC)C=C(C=C1)[N+](=O)[O-] | C10H11NO4
